US06689530B2
In 250 g of ethanol were dissolved 250 g (2.05 mol) of 2,5-dimethylphenol (or p-xylenol), 90 g (2.25 mol) of sodium hydroxide and 371 g (2.25 mol) of n-hexyl bromide. The solution was heated for 2 hours in an oil bath at 80° C. Water, 500 g, was added to the reaction mixture, from which an oily matter was separated. Vacuum distillation of the oily matter yielded 384 g of 2,5-dimethyl-1-n-hexyloxy-benzene. Next, 129 g (0.625 mol) of 2,5-dimethyl-1-n-hexyloxybenzene was dissolved in 625 g of 1,2-dichloroethane. To the solution kept in an ice bath, 100 g (0.625 mol) of bromine was added dropwise at a temperature below 5C. At the end of dropwise addition, 500 g of water was added. The organic layer was separated therefrom and washed with 300 g of an aqueous solution of 5 wt % sodium hydrogen carbonate. The organic layer was concentrated to remove the solvent, leaving an oily matter. Vacuum distillation (boiling point 114-124° C./0.5 Torr) of the oily matter yielded 174 g of 4-bromo-2,5-dimethyl-n-hexyloxybenzene.

reactant | 2,5-dimethylphenol | 2.05 mol, 250 g | CC1=C(C=C(C=C1)C)O | C8H10O
reactant | p-xylenol | C1(CC=C(C=C1)C)(C)O | C8H12O
reactant | sodium hydroxide | 2.25 mol, 90 g | [OH-].[Na+]
reactant | n-hexyl bromide | 2.25 mol, 371 g | C(CCCCC)Br | C6H13Br
solvent | ethanol | 250 g | C(C)O | C2H6O
solvent | Water | O | H2O
product | 2,5-dimethyl-1-n-hexyloxy-benzene | 384 g | CC1=C(C=C(C=C1)C)OCCCCCC | C14H22O
